US08304443B2
6-Tert-butyldiphenylsilyloxyindazole
Indazol-6-ol (4.029 g) which can be prepared according to the method described in Reference example 35, etc. was dissolved dehydrated DMF (60 mL; manufactured by Kanto Chemical Co., Inc.), and added with imidazole (4.49 g; manufactured by Tokyo Chemical Industry, Co., Ltd.) and TBDPSCl (17.1 mL; manufactured by Tokyo Chemical Industry, Co., Ltd.). The mixture was stirred overnight at room temperature. The reaction solution was added to water and extraction was carried out three times with ethyl acetate. The organic layer was washed three times with water and dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by column chromatography (“COLUMN-A”; n-hexane:ethyl acetate=92:8→71:29) to obtain the title compound (9.214 g).

reactant | Indazol-6-ol | 4.029 g | N1N=CC2=CC=C(C=C12)O | C7H6N2O
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
reactant | imidazole | 4.49 g | N1C=NC=C1 | C3H4N2
reactant | TBDPSCl | 17.1 mL | CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)Cl | C16H19ClSi
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-Tert-butyldiphenylsilyloxyindazole | 9.214 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C=NNC2=C1 | C23H24N2OSi
